US07531546B2
To a solution of 7-(2-cyclohexyl-ethyl)-6-(4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile trifluoroacetic acid salt (142 mg, 0.28 mol) in dichloromethane (2 ml), triethylamine (395 μl) and acetic anhydride (54 μl, 0.57 mmol) are added at 0° C. The reaction mixture is stirred for over night at room temperature, quenched with ice-water and extracted with ethyl acetate. The combined extracts are washed with H2O, brine and dried over sodium sulphate. Chromatography on silica gel gives 90 mg of 6-(8-acetyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-ylmethyl)-7-(2-cyclohexyl-ethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile in 58% yield.

reactant | 7-(2-cyclohexyl-ethyl)-6-(4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile trifluoroacetic acid salt | 0.28 mol, 142 mg | FC(C(=O)O)(F)F.C1(CCCCC1)CCN1C(=CC2=C1N=C(N=C2)C#N)CN2CN(C1(C2=O)CCNCC1)C1=CC=CC=C1
reactant | acetic anhydride | 0.57 mmol, 54 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | triethylamine | 395 μl | C(C)N(CC)CC | C6H15N
product | 6-(8-acetyl-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-ylmethyl)-7-(2-cyclohexyl-ethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 90 mg, 58% yield | C(C)(=O)N1CCC2(C(N(CN2C2=CC=CC=C2)CC2=CC3=C(N=C(N=C3)C#N)N2CCC2CCCCC2)=O)CC1 | C31H37N7O2
